US06107458
To a solution of 4-bromo-4'-n-heptylbiphenyl (5.1 g) in tetrahydrofuran (60 ml) was added a solution of n-butyllithium in a mixture of n-hexane and diethyl ether (1.6M, 9.7 ml) at -60° C. After stirring at -60° C. for 30 minutes, to the mixture was added N,N-dimethylacetamide (4.3 ml) and the reaction mixture was allowed to warm to 0° C. The reaction mixture was taken up into a mixture of cold water and ethyl acetate, and the pH was adjusted to around 1 with 1N hydrochloric acid. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (150 ml) eluting with a mixture of n-hexane and ethyl acetate (20:1, V/V) to give 4-Acetyl-4'-n-heptylbiphenyl (1.60 g).

reactant | 4-bromo-4'-n-heptylbiphenyl | 5.1 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCC | C19H23Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 4.3 ml | CN(C(C)=O)C | C4H9NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 1.6M, 9.7 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Acetyl-4'-n-heptylbiphenyl | 1.60 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCC | C21H26O
